US05912244
6-(2-Methoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (3.5 g) (see Preparation 7) was dissolved in dry 2,4,6-collidine (15 ml), anhydrous lithium iodide (9.0 g) was added and the mixture was heated at 150° C. for 40 hours. After cooling, the mixture was taken up in dichloromethane and washed with 2N aqueous hydrochloric acid solution (×3). The organic layer was dried (anhydrous sodium sulphate), the solvent removed under reduced pressure and the residue was chromatographed on silica using 1:1 hexane: dichloromethane as the eluent to yield 6-(2-hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (1.2 g) as an oil.

reactant | 6-(2-Methoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 3.5 g | COC1=C(C=CC=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C19H20O2S
reactant | lithium iodide | 9.0 g | [I-].[Li+]
solvent | 2,4,6-collidine | 15 ml | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(2-hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 1.2 g | OC1=C(C=CC=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C18H18O2S
